US07625903B2
Ethyl 2-[(5-chloro-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]benzoate
Ethyl 2-[(2,5-dichloro-4-pyrimidinyl)amino]benzoate (10.2 g, 32.8 mmol) and 3-(4-methyl-1-piperazinyl)aniline (6.6 g, 34.4 mmol) were combined in a vessel with ethanol (200 mL) and concentrated HCl (3.2 mL, 38.4 mmol, 12N). The vessel was sealed and heated with stirring at 95° C. for 24 h. The reaction was cooled to room temperature and poured onto water (1.3 L). The aqueous layer was extracted with ethyl acetate (2×250 mL) and neutralized to pH 7 by the slow addition of 6N NaOH. The precipitated solid was filtered off and washed with water and ethyl ether to afford the product (15.0 g, 98% yield) as a tan solid. MS: M(C24H27ClN6O2)=466.97, (M+H)+=467.2 and 469.2.

reactant | Ethyl 2-[(2,5-dichloro-4-pyrimidinyl)amino]benzoate | 32.8 mmol, 10.2 g | ClC1=NC=C(C(=N1)NC1=C(C(=O)OCC)C=CC=C1)Cl | C13H11Cl2N3O2
reactant | 3-(4-methyl-1-piperazinyl)aniline | 34.4 mmol, 6.6 g | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
reactant | HCl | 38.4 mmol, 12N, 3.2 mL | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | Ethyl 2-[(5-chloro-2-{[3-(4-methyl-1-piperazinyl)phenyl]amino}-4-pyrimidinyl)amino]benzoate | 15.0 g, 98% yield | ClC=1C(=NC(=NC1)NC1=CC(=CC=C1)N1CCN(CC1)C)NC1=C(C(=O)OCC)C=CC=C1 | C24H27ClN6O2
